* D:\Documents\Mestrado\Mestrado UFRJ\Ampop AI Optimizer\Ampop_sim_SR.asc
CL Vo 0 10p
V1 Vdd 0 1.8
Ib Vss N007 20µ
XU6 Vdd N001 N001 Vdd UMC180_P W={Wout} L={Le} M=4
XU7 Vdd N001 N002 Vdd UMC180_P W={Wout} L={Le} M=4
XU8 Vdd N002 N004 Vdd UMC180_P W={Wout} L=Lout M={N}
V6 N004 Vo 0
V7 Vo N006 0
XU9 N006 N007 Vss Vss UMC180_N W={Wn} L=5u M={N}
XU3 N008 N007 Vss Vss UMC180_N W={Wn} L=5u M=1
XU4 N007 N007 Vss Vss UMC180_N W={Wn} L=5u M=1
XU1 N002 0 N005 Vss UMC180_N W={Wd} L={Ld} M=1
XU2 N001 Vd- N005 Vss UMC180_N W={Wd} L={Ld} M=1
V9 N005 N008 0
V2 0 Vss 1.8
C1 N004 N003 2p
R3 N003 N002 1k
V3 Vd- 0 PULSE(-2 2 0 1n 1n 0.5m 1m)
.include UMC180.lib
.param Vcm=0.9 Vd=0.1 Lout=1u Ld=1u Wd=0.2u Wout=10u Wn=5u Le=5u  Wb=5u Lb=5u N=11
.tran 0 1m 1u
.four 10meg 10 -1 V(Vo)
.lib UMC180.lib
.backanno
.end
