*
.subckt umc180_p D G S B
M1 D G S B umc180p l={L} w={W} m={M}
.ends umc180_p

*
.subckt umc180p D G S
M1 D G S Vdd umc180p l={L} w={W} m={M}
.ends umc180

*
.subckt umc180ps D G S
M1 D G S S umc180p l={L} w={W} m={M}
.ends umc180ps

*
.subckt umc180_n D G S B
M1 D G S B umc180n l={L} w={W} m={M}
.ends umc180_n

*
.subckt umc180n D G S
M1 D G S 0 umc180n l={L} w={W} m={M}
.ends umc180n



******************************************************************************************
*         0.18um 1.8v/3.3v mixedmode twin-well technology, 1.8v nmos model               *
******************************************************************************************

.model umc180n nmos (
*****model selectors/controllers*********************************
+  level     =   4.9000e+01
+  binunit   =   1.0000e+00                          mobmod    =   1.0000e+00
+  capmod    =   2.0000e+00                          nqsmod    =   0.0000e+00


*****process parameters******************************************
+  tox       =  4.2000e-09            toxm      =   4.2000e-09
+  xj        =   1.6000e-07                          nch       =   3.7446e+17
+  rsh       =   8.0000e+00                          ngate     =   1.0000e+23


*****basic model parameters**************************************
+  vth0      =  3.0750e-01           k1        =   4.5780e-01
+  k2        =  -2.6380e-02                          k3        =  -1.0880e+01
+  k3b       =   2.3790e-01                          w0        =  -8.8130e-08
+  nlx       =   4.2790e-07                          dvt0      =   4.0420e-01
+  dvt1      =   3.2370e-01                          dvt2      =  -8.6020e-01
+  dvt0w     =   3.8300e-01                          dvt1w     =   6.0000e+05
+  dvt2w     =  -2.5000e-02                          lint      =   1.5870e-08
+  wint      =   1.0220e-08                          dwg       =  -3.3960e-09
+  dwb       =   1.3460e-09                          u0        =  3.1410e+02
+  ua        =  -9.2010e-10                          ub        =   1.9070e-18
+  uc        =   4.3550e-11                          vsat      =   7.1580e+04
+  a0        =   1.9300e+00                          ags       =   5.0720e-01
+  b0        =   1.4860e-06                          b1        =   9.0640e-06
+  keta      =   1.7520e-02                          a1        =   0.0000e+00
+  a2        =   1.0000e+00                          voff      =  -1.0880e-01
+  nfactor   =   1.0380e+00                          cit       =  -1.5110e-03
+  cdsc      =   2.1750e-03                          cdscd     =  -5.0000e-04
+  cdscb     =   8.2410e-04                          eta0      =   1.0040e-03
+  etab      =  -1.4590e-03                          dsub      =   1.5920e-03
+  pclm      =   1.0910e+00                          pdiblc1   =   3.0610e-03
+  pdiblc2   =   1.0000e-06                          pdiblcb   =   0.0000e+00
+  drout     =   1.5920e-03                          pscbe1    =   4.8660e+08
+  pscbe2    =   2.8000e-07                          pvag      =  -2.9580e-01


*****parameters for asymmetric and bias-dependent rds model******
+  rdsw      =   4.9050e+00                          prwg      =   0.0000e+00
+  prwb      =   0.0000e+00                          wr        =   1.0000e+00


*****impact ionization current model parameters******************
+  alpha0    =   0.0000e+00                          alpha1    =   0.0000e+00
+  beta0     =   3.0000e+01


*****gate-induced drain leakage model parameters*****************


*****gate dielectric tunneling current model parameters**********


*****charge and capacitance model parameters*********************
+  xpart     =   1.0000e+00                          cgso      =  2.3500e-10
+  cgdo      =  2.3500e-10           cgbo      =   0.0000e+00
+  cgsl      =   0.0000e+00                          cgdl      =   0.0000e+00
+  ckappa    =   6.0000e-01                          cf        =   1.5330e-10
+  clc       =   1.0000e-07                          cle       =   6.0000e-01
+  dlc       =   2.9000e-08                          dwc       =   0.0000e+00
+  vfbcv     =  -1.0000e+00                          noff      =   1.0000e+00
+  voffcv    =   0.0000e+00                          acde      =   1.0000e+00
+  moin      =   1.5000e+01


*****high-speed/rf model parameters******************************


*****flicker and thermal noise model parameters******************
+  noimod    =   2                                   noia      =   1.3182567385564e+19
+  noib      =   144543.977074592                    noic      =   -1.24515794572817e-12
+  ef        =   0.92                                em        =   41000000


*****layout-dependent parasitics model parameters****************
+  lmin      =   1.8000e-07                          lmax      =   5.0000e-05
+  wmin      =   2.4000e-07                          wmax      =   1.0000e-04
+  lint        = -1.0500e-08             wint        =  0.0000e-00


*****asymmetric source/drain junction diode model parameters*****
+  js        =   1.0000e-06                          jsw       =   7.0000e-11
+  cj        =  1.0300e-03             mj        =   4.4300e-01
+  pb        =   8.1300e-01                          cjsw      =  1.3400e-10
+  mjsw      =   3.3000e-01


*****temperature dependence parameters***************************
+  tnom      =   2.5000e+01                          ute       =  -1.2860e+00
+  kt1       =  -2.2550e-01                          kt1l      =  -4.1750e-09
+  kt2       =  -2.5270e-02                          ua1       =   2.1530e-09
+  ub1       =  -2.6730e-18                          uc1       =  -3.8320e-11
+  at        =   1.4490e+04                          prt       =  -1.0180e+01
+  xti       =   3.0000e+00


*****dw and dl parameters****************************************
+  wl        =   0.0000e+00                          wln       =   1.0000e+00
+  ww        =   7.2620e-16                          wwn       =   1.0000e+00
+  wwl       =   0.0000e+00                          ll        =  -1.0620e-15
+  lln       =   1.0000e+00                          lw        =   2.9960e-15
+  lwn       =   1.0000e+00                          lwl       =   0.0000e+00
+  llc       =  -2.1400e-15                          lwc       =   0.0000e+00
+  lwlc      =   0.0000e+00                          wlc       =   0.0000e+00
+  wwc       =   0.0000e+00                          wwlc      =   0.0000e+00


*****range parameters for model application**********************


*****other parameters********************************************
+  lvth0     = -1.0000e-03          wvth0     =  6.027e-02
+  pvth0     =  0                  lnlx      =  -2.8540e-08
+  wnlx      =   0.0000e+00                          pnlx      =   0.0000e+00
+  wua       =  -1.8800e-11                          wu0       =  5.4000e-01
+  pub       =   3.8000e-20                          pw0       =   1.3000e-09
+  wrdsw     =   0.0000e+00                          weta0     =   0.0000e+00
+  wetab     =   0.0000e+00                          leta0     =   1.5740e-03
+  letab     =   0.0000e+00                          peta0     =   0.0000e+00
+  petab     =   0.0000e+00                          wpclm     =   0.0000e+00
+  wvoff     =  -4.0780e-04                          lvoff     =  -4.2080e-03
+  pvoff     =  -3.7880e-04                          wa0       =  -4.7310e-02
+  la0       =  -4.6670e-01                          pa0       =  -2.6490e-02
+  wags      =   4.2420e-03                          lags      =   3.0280e-01
+  pags      =   0.0000e+00                          wketa     =   0.0000e+00
+  lketa     =  -1.9420e-02                          pketa     =   0.0000e+00
+  wute      =   6.3730e-02                          lute      =   0.0000e+00
+  pute      =   0.0000e+00                          wvsat     =   5.0660e+03
+  lvsat     =   0.0000e+00                          pvsat     =  0.0000e+00
+  lpdiblc2  =  -4.7520e-03                          wat       =   7.0670e+03
+  wprt      =   0.0000e+00
+  n         =   1.0000e+00                          pbsw       =   8.8000e-01)
+  elm       =   5.0000e+00


******************************************************************************************
*         0.18um 1.8v/3.3v mixedmode twin-well technology, 1.8v pmos model               *
******************************************************************************************

.model umc180p pmos (
*****model selectors/controllers*********************************
+  level     =   4.9000e+01                          mobmod    =   3.0000e+00
+  capmod    =   2.0000e+00
+  binunit   =   1.0000e+00                          nqsmod    =   0.0000e+00


*****process parameters******************************************
+  tox       =  4.2000e-09            toxm      =   4.2000e-09
+  xj        =   1.0000e-07                          nch       =   6.1310e+17
+  ngate     =   1.0000e+23

*****basic model parameters**************************************
+  vth0      = -4.5550e-01           k1        =   5.7040e-01
+  k2        =   6.9730e-03                          k3        =  -2.8330e+00
+  k3b       =   1.3260e+00                          w0        =  -1.9430e-07
+  nlx       =   2.5300e-07                          dvt0      =   4.8850e-01
+  dvt1      =   7.5780e-02                          dvt2      =   1.2870e-01
+  dvt0w     =  -1.2610e-01                          dvt1w     =   2.4790e+04
+  dvt2w     =   6.9150e-01                          lint      =  -1.0410e-08
+  wint      =  -1.5250e-07                          dwg       =  -1.1510e-07
+  dwb       =  -1.0390e-07                          u0        =  1.1450e+02
+  ua        =   1.5400e-09                          ub        =   2.6460e-19
+  uc        =  -9.5870e-02                          vsat      =   5.3400e+04
+  a0        =   1.3500e+00                          ags       =   3.8180e-01
+  b0        =  -3.0880e-07                          b1        =   0.0000e+00
+  keta      =   1.0440e-02                          a1        =   0.0000e+00
+  a2        =   1.0000e+00                          voff      =  -1.0730e-01
+  nfactor   =   1.5350e-00                          cit       =  -1.0670e-03
+  cdsc      =   7.5780e-04                          cdscd     =  -2.8830e-05
+  cdscb     =   1.0000e-04                          eta0      =   1.0710e+00
+  etab      =  -9.2910e-01                          dsub      =   1.9191e+00
+  pclm      =   2.6530e+00                          pdiblc1   =   0.0000e+00
+  pdiblc2   =   5.0000e-06                          pdiblcb   =   0.0000e+00
+  drout     =   1.4570e+00                          pscbe1    =   4.8660e+08
+  pscbe2    =   2.8000e-07                          pvag      =   1.1620e+00


*****parameters for asymmetric and bias-dependent rds model******
+  rdsw      =   7.9210e+02                          prwg      =   0.0000e+00
+  prwb      =   0.0000e+00


*****impact ionization current model parameters******************
+  alpha0    =   0.0000e+00                          alpha1    =   0.0000e+00
+  beta0     =   3.0000e+01


*****gate-induced drain leakage model parameters*****************


*****gate dielectric tunneling current model parameters**********


*****charge and capacitance model parameters*********************
+  cgdo      =  2.0540e-10           cgbo      =   0.0000e+00
+  cgso      =  2.0540e-10           xpart     =   1.0000e+00
+  cf        =   1.5330e-10                          dlc       =   5.6000e-08
+  cgsl      =   0.0000e+00                          cgdl      =   0.0000e+00
+  ckappa    =   6.0000e-01
+  clc       =   1.0000e-07                          cle       =   6.0000e-01
+  dwc       =   0.0000e+00
+  vfbcv     =  -1.0000e+00                          noff      =   1.0000e+00
+  voffcv    =   0.0000e+00                          acde      =   1.0000e+00
+  moin      =   1.5000e+01


*****high-speed/rf model parameters******************************


*****flicker and thermal noise model parameters******************
+  noimod    =   2                                   noia      =   3.57456993317604e+18
+  noib      =   2500                                noic      =   2.61260020285845e-11
+  ef        =   1.1388                              em        =   41000000


*****layout-dependent parasitics model parameters****************
+  lmin      =   1.8000e-07                          lmax      =   5.0000e-05
+  wmin      =   2.4000e-07                          wmax      =   1.0000e-04
+  lint        = -1.0000e-09             wint        =  0.0000e+00


*****asymmetric source/drain junction diode model parameters*****
+  js        =   3.0000e-06                          jsw       =   4.1200e-11
+  cj        =  1.1400e-03             mj        =   3.9500e-01
+  pb        =   7.6200e-01                          cjsw      =  1.7400e-10
+  mjsw      =   3.2400e-01


*****temperature dependence parameters***************************
+  tnom      =   2.5000e+01                          ute       =  -4.4840e-01
+  kt1       =  -2.1940e-01                          kt1l      =  -8.2040e-09
+  kt2       =  -9.4870e-03                          ua1       =   4.5710e-09
+  ub1       =  -6.0260e-18                          uc1       =  -9.8500e-02
+  at        =   1.2030e+04                          prt       =   0.0000e+00
+  xti       =   3.0000e+00


*****dw and dl parameters****************************************
+  ww        =   1.2360e-14                          lw        =  -2.8730e-16
+  ll        =   6.6350e-15
+  wl        =   0.0000e+00                          wln       =   1.0000e+00
+  wwn       =   1.0000e+00
+  wwl       =   0.0000e+00
+  lln       =   1.0000e+00
+  lwn       =   1.0000e+00                          lwl       =   0.0000e+00
+  llc       =  -7.4500e-15                          lwc       =   0.0000e+00
+  lwlc      =   0.0000e+00                          wlc       =   0.0000e+00
+  wwc       =   0.0000e+00                          wwlc      =   0.0000e+00



*****range parameters for model application**********************


*****other parameters********************************************
+  lvth0     =  4.4000e-03          wvth0     = -1.4800e-02
+  pvth0     =  3.2000e-03          lnlx      =  -1.5840e-08
+  wrdsw     =   1.0070e+01                          weta0     =   0.0000e+00
+  wetab     =   0.0000e+00                          wpclm     =   0.0000e+00
+  wua       =   2.6300e-09                          lua       =  -8.1530e-11
+  pua       =   5.8550e-11                          wub       =   0.0000e+00
+  lub       =   0.0000e+00                          pub       =   0.0000e+00
+  wuc       =   0.0000e+00                          luc       =   0.0000e+00
+  puc       =   0.0000e+00                          wvoff     =  -9.8160e-03
+  lvoff     =  -9.8710e-04                          pvoff     =  -9.8330e-05
+  wa0       =  -4.8070e-02                          la0       =  -2.8100e-01
+  pa0       =   8.6610e-02                          wags      =  -4.1770e-02
+  lags      =   4.4540e-02                          pags      =  -4.0760e-02
+  wketa     =   0.0000e+00                          lketa     =  -1.2000e-02
+  pketa     =   0.0000e+00                          wute      =  -2.6820e-01
+  lute      =   0.0000e+00                          pute      =   0.0000e+00
+  wvsat     =  -1.4200e+04                          lvsat     =   0.0000e+00
+  pvsat     = -4.3400e+02          lpdiblc2  =   3.0120e-03
+  wat       =  -6.4050e+03                          wprt      =   2.1660e+02
+  n         =   1.0000e+00                          pbsw       =   6.6500e-01
+  rsh       =   8.0000e+00                          rd        =   0.0000e+00)
+  rs        =   0.0000e+00
